US06852731B2
N-[4-(2-bromo-1-hydroxyethyl)phenyl]acetamide
To a solution of N-[4-(2-bromoacetyl)phenyl]acetamide (2.1 g, 0.0082 mol, in 30 mL of methanol) was introduced solid NaBH4 (1.0 g, 0.026 mol) at 0° C. and stirred at that temperature for 15 minutes. The mixture was diluted with diethyl ether (20 mL) and water (20 mL). The ether phase was separated and the aqueous phase was extracted with diethyl ether. The ether phases were combined and washed with brine, dried. Purification on a silica gel column gave the title compound as a white solid (0.40 g).

reactant | N-[4-(2-bromoacetyl)phenyl]acetamide | 0.0082 mol, 30 mL, 2.1 g | BrCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10BrNO2
reactant | NaBH4 | 0.026 mol, 1.0 g | [BH4-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | water | 20 mL | O | H2O
product | N-[4-(2-bromo-1-hydroxyethyl)phenyl]acetamide | 0.40 g | BrCC(O)C1=CC=C(C=C1)NC(C)=O | C10H12BrNO2
